US08217184B2
(S)-2-phenethyloxirane
Colorless oily substance, 74% yield, 97% ee (CHIRALPAK IC, hexane/iPrOH 99.9:0.1); [α]D22 −16.3° (c=0.38, CHCl3)): δ7.32-7.28 (m, 2H), 7.22-7.18 (m, 3H), 2.98-2.93 (m, 1H), 2.87-2.72 (m, 3H), 2.49-2.47 (dd, J=2.7, 5.1 Hz, 1H), 1.93-1.79 ppm (m, 2H).

reactant | hexane iPrOH | CCCCCC.CC(C)O
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | (S)-2-phenethyloxirane | 74% yield | C(CC1=CC=CC=C1)[C@@H]1OC1 | C10H12O
